US08222416B2
To a −78° C. solution of 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanone (685 mg, 1.86 mmol) in dry tetrahydrofuran (40 mL) was added lithium bis(trimethylsilyl)amide (1 M in tetrahydrofuran, 2.8 mL, 2.8 mmol) dropwise. After stirring at −78° C. for 1 h, a solution of p-toluenesulfonic anhydride (1.1 g, 0.98 3.35 mmol) in tetrahydrofuran (20 mL) was added dropwise. The ultimate solution was kept at −78° C. for another 1.5 h. The reaction was quenched with water, extracted with ethyl acetate (300 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford toluene-4-sulfonic acid 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester as a light yellow solid (972 mg, quant.) which was used for the next step without further purification: LC/MS m/e calcd for C27H27N2O5S2 [M+H]+ 523.13, observed 523.1.

reactant | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanone | 1.86 mmol, 685 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC2CCCC2)=O | C20H20N2O3S
reactant | lithium bis(trimethylsilyl)amide | 2.8 mmol, 1 M, 2.8 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonic anhydride | 3.35 mmol, 1.1 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | toluene-4-sulfonic acid 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C27H26N2O5S2
